US05053543
To a mixture of N-methoxy-N-methyl anthranilic acid amide prepared as in Example 1(A)(2.00 g, 11.1 mmol) and 4-benzyloxy-bromobenzene (2.92 g, 11.1 mmol) in anhydrous tetrahydrofuran (65 ml) at -78° C. under nitrogen is added, with vigorous stirring, n-BuLi in hexanes (13.8 ml, 1.6M, 22.2 mmol) at 0.60 ml/min. After 20 min, aqueous hydrochloric acid is added (1N, 20 ml), the mixture extracted with ethyl acetate (150 ml), ethyl acetate washed with water, brine, dried over magnesium sulfate, and concentrated. Recrystallization from hexanes gave 4'-benzyloxy-2-aminobenzophenone as yellow crystals; yield: 2.35 g, (70%); m.p. 99°-101° C.

reactant | N-methoxy-N-methyl anthranilic acid amide | CON(C(C=1C(N)=CC=CC1)=O)C | C9H12N2O2
reactant | 4-benzyloxy-bromobenzene | 11.1 mmol, 2.92 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | n-BuLi | [Li]CCCC
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 4'-benzyloxy-2-aminobenzophenone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C1=C(C=CC=C1)N)=O | C20H17NO2
